US08563723B2
2.51 g N-[(2,3-Diaza-spiro[4.4]non-3-en-2-yl)-ethylamino-methylene]-4-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-benzenesulfonamide was taken up in 50 mL EtOH. After addition of 0.70 mL hydrazine hydrate, the mixture was refluxed for 2 h. After cooling to room temperature, the formed precipitate was filtered off. The filtrate was concentrated, and the residue was triturated with DCM. The solids were filtered off, and the filtrate was evaporated to dryness to give 1.20 g (67%) of 4-Aminomethyl-N-[(2,3-diaza-spiro[4.4]non-3-en-2-yl)-ethylamino-methylene]benzenesulfonamide as a red oil. 1H NMR (400 MHz, CDCl3) δ 1.14 (t, J=7.22 Hz, 3H), 1.59-1.83 (m, 8H), 3.46 (q, 2H), 3.82 (br.s., 2H), 3.92 (br.s., 2H), 6.82 (s, 1H), 7.40 (d, J=8.13 Hz, 2H), 7.88 (d, J=8.13 Hz, 2H) [NH2 & guanidine NH invisible].

reactant | N-[(2,3-Diaza-spiro[4.4]non-3-en-2-yl)-ethylamino-methylene]-4-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-benzenesulfonamide | 2.51 g | C1N(N=CC12CCCC2)C(=NS(=O)(=O)C2=CC=C(C=C2)CN2C(C1=CC=CC=C1C2=O)=O)NCC | C25H27N5O4S
reactant | hydrazine hydrate | 0.70 mL | O.NN
solvent | EtOH | 50 mL | CCO | C2H6O
product | 4-Aminomethyl-N-[(2,3-diaza-spiro[4.4]non-3-en-2-yl)-ethylamino-methylene]benzenesulfonamide | 1.20 g, 67% | NCC1=CC=C(C=C1)S(=O)(=O)N=C(NCC)N1CC2(C=N1)CCCC2 | C17H25N5O2S
